US08455477B2
To N,N-dimethylformamide dimethyl acetal (9.51 ml, 71.3 mmol) was added cyclopropyl methyl ketone (3.34 ml, 35.7 mmol) and the mixture was heated to 150° C. in a sealed vessel. After 16 hours, the reaction mixture was cooled and concentrated to afford (2E)-1-cyclopropyl-3-(dimethylamino)prop-2-en-1-one which was used without further purification.

reactant | N,N-dimethylformamide dimethyl acetal | 71.3 mmol, 9.51 ml | COC(N(C)C)OC | C5H13NO2
reactant | cyclopropyl methyl ketone | 35.7 mmol, 3.34 ml | CC(=O)C1CC1 | C5H8O
product | (2E)-1-cyclopropyl-3-(dimethylamino)prop-2-en-1-one | C1(CC1)C(\C=C\N(C)C)=O | C8H13NO
